US04839348
A solution of ethyl 2-(m-chlorophenylmethylen)-4-chloro-3-oxobutanoate (5 g) and ethyl-3-aminocrotonate (2.3 g) in EtOH (50 ml) is stirred at room temperature for four hours, then it is evaporated at reduced pressure, the residue dissolved in Et2O (70 ml) washed with water (3×20 ml), dried on Na2SO4 and purified by column-chromatography on silica gel (120 g; eluent hexane/AcOEt 60/40) to give 4.2 g of 2-amino-7-chloro-3,5-dicarboethoxy-6-oxo-4-(m-chlorophenyl)-2-heptene as an oil.

reactant | ethyl 2-(m-chlorophenylmethylen)-4-chloro-3-oxobutanoate | 5 g | ClC=1C=C(C=CC1)C=C(C(=O)OCC)C(CCl)=O | C13H12Cl2O3
reactant | ethyl-3-aminocrotonate | 2.3 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | EtOH | 50 ml | CCO | C2H6O
product | 2-amino-7-chloro-3,5-dicarboethoxy-6-oxo-4-(m-chlorophenyl)-2-heptene | 4.2 g | NC(C)=C(C(C(C(CCl)=O)C(=O)OCC)C1=CC(=CC=C1)Cl)C(=O)OCC | C19H23Cl2NO5
